US07598249B2
4-Quinoxalin-2-ylmethyl-piperazine-1-carboxylic acid phenylamide
The title compound was prepared from piperazine-1-carboxylic acid phenylamide and 2-quinoxaline-carboxaldehyde in analogy with Example 18. 1H NMR (400 MHz, CDCl3): 8.96 (s, 1H), 8.06-7.98 (m, 2H), 7.72-7.66 (m, 2H), 7.28-7.16 (m, 4H), 7.96-7.92 (m, 1H), 6.42 (s, 1H), 3.85 (s, 2H), 3.48-3.45 (m, 4H), 3.55-3.52 (m, 4H).

reactant | piperazine-1-carboxylic acid phenylamide | C1(=CC=CC=C1)NC(=O)N1CCNCC1 | C11H15N3O
reactant | 2-quinoxaline-carboxaldehyde | N1=C(C=NC2=CC=CC=C12)C=O | C9H6N2O
product | 4-Quinoxalin-2-ylmethyl-piperazine-1-carboxylic acid phenylamide | C1(=CC=CC=C1)NC(=O)N1CCN(CC1)CC1=NC2=CC=CC=C2N=C1 | C20H21N5O
